US07399774B2
Add K2CO3 (1.24 g, 9.00 mmol) to a mixture of 5-hydroxy-4-methyl-1-indanone (973 mg, 6.00 mmol), 6-chloronicotinonitrile (831 mg, 6.00 mmol) and DMSO (15 ml) stirring at ambient temperature under nitrogen. Heat the mixture at 55° C. for three days. Quench the reaction with saturated aqueous NH4Cl and extract with EtOAc (2×). Wash extract with water and brine, dry (MgSO4) and concentrate on rotary evaporator to a brown foam. Purify on silica gel (10% EtOAc/DCM) to give 1.22 g of 6-(4-Methyl-1-oxo-indan-5-yloxy)-nicotinonitrile as a yellow solid.

reactant | K2CO3 | 9.00 mmol, 1.24 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 5-hydroxy-4-methyl-1-indanone | 6.00 mmol, 973 mg | OC=1C(=C2CCC(C2=CC1)=O)C | C10H10O2
reactant | 6-chloronicotinonitrile | 6.00 mmol, 831 mg | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
product | 6-(4-Methyl-1-oxo-indan-5-yloxy)-nicotinonitrile | 1.22 g | CC1=C2CCC(C2=CC=C1OC1=NC=C(C#N)C=C1)=O | C16H12N2O2
